US09108921B2
Step B: 5-fluoroquinoline-8-sulfonyl chloride (22C)
5-fluoroquinoline (800 mg, 5.4 mmol) was added slowly to 10 mL of chlorosulfonic acid at 0° C. When the addition was complete, the reaction mixture was heated at 130° C. overnight. The solution was allowed to cool and was slowly poured over ice. The aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic extracts were dried and evaporated to give the crude product, which was purified by column chromatography (5% EtOAc/PE) to afford 400 mg of title compound. 1H NMR (CHLOROFORM-d) δ: 7.40 (t, J=8.46 Hz, 1 H), 7.74 (dd, J=8.60, 4.30 Hz, 1 H), 8.55-8.64 (m, 2 H), 9.32 (dd, J=4.30, 1.88 Hz, 1 H). LC-MS: m/z 4 246 (M+H)+

reactant | 5-fluoroquinoline | 5.4 mmol, 800 mg | FC1=C2C=CC=NC2=CC=C1 | C9H6FN
reactant | chlorosulfonic acid | 10 mL | ClS(=O)(=O)O | ClHO3S
product | 5-fluoroquinoline-8-sulfonyl chloride | 400 mg | FC1=C2C=CC=NC2=C(C=C1)S(=O)(=O)Cl | C9H5ClFNO2S
